US04073798
A mixture of 51.52 g (0.2 mole) of 1,1-dimethyl-2-chloro-2-(3,4-methylenedioxyphenyl)nitroethane, 2.0 g of 83.8 weight % purity platinum oxide, 18.0 g (0.22 mole) of sodium acetate and 4.0 g of "Darco" in 96 ml of acetic acid and 500 ml of SDA-30 was stirred under a hydrogen atmosphere at 1000 p.s.i. and 100° C for a period of 5 hours, after which uptake of hydrogen ceased. The solution was cooled and filtered, and the filtrate was concentrated to an oil which was treated with 400 ml of water. The mixture was extracted twice with ether, after which the aqueous layer was made alkaline by addition of 20% aqueous sodium hydroxide and extracted four times with chloroform. The combined extracts were filtered through "Dicalite" (Trade Mark), washed with water, dried and concentrated to a light yellow oil which was distilled using a 2" 19.38 distillation column to give 1,1-dimethyl-2-(3,4-methylenedioxyphenyl)ethylamine as a clear colourless oil, b.p. 68°-85° C, 0.06-0.04 mm Hg (Yield 24.4 g, 63.2%)

reactant | 1,1-dimethyl-2-chloro-2-(3,4-methylenedioxyphenyl)nitroethane | 0.2 mole, 51.52 g | CC(C(C1=CC2=C(C=C1)OCO2)Cl)(C)[N+](=O)[O-] | C11H12ClNO4
reactant | sodium acetate | 0.22 mole, 18.0 g | C(C)(=O)[O-].[Na+]
reactant | Darco | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 96 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | [Pt]=O
product | 1,1-dimethyl-2-(3,4-methylenedioxyphenyl)ethylamine | CC(CC1=CC2=C(C=C1)OCO2)(C)N | C11H15NO2
